US04999371
3,4-Dihydro-2,2-dimethyl-6-(4-methylphenylsulfonyl)-trans-4-(2-oxo-1-pyrrolidinyl)-2H -benzo[b]pyran-3-ol
0.75 g (0.025 mol) of 80 % NaH is introduced into 8.2 g (0.02 mol) of 3-bromo-3,4-dihydro-2,2-dimethyl-6-(4'-methyl-phenylsulfonyl)-2H-benzo[b]pyran -4-ol in 30 ml of dimethyl of dimethyl sulfoxide. After stirring for one hour at 20°, a further 0.75 g (0.025 mol) of 80 % NaH and 1.9 ml (0.025 mol) of 2-pyrrolidone are added and the mixture is stirred for 45 minutes at 40° and for 6 hours at 20°. After the mixture has been introduced into ice water, the precipitate is filtered off with suction, dried and recrystallized several times from methanol. Crystals of melting point: 242-243°.

reactant | NaH | 0.025 mol, 0.75 g | [H-].[Na+]
reactant | 3-bromo-3,4-dihydro-2,2-dimethyl-6-(4'-methyl-phenylsulfonyl)-2H-benzo[b]pyran -4-ol | 0.02 mol, 8.2 g | BrC1C(C2=C(OC1(C)C)C=CC(=C2)S(=O)(=O)C2=CC=C(C=C2)C)O | C18H19BrO4S
reactant | NaH | 0.025 mol, 0.75 g | [H-].[Na+]
reactant | 2-pyrrolidone | 0.025 mol, 1.9 ml | N1C(CCC1)=O | C4H7NO
reactant | dimethyl sulfoxide | CS(=O)C | C2H6OS
product | 3,4-Dihydro-2,2-dimethyl-6-(4-methylphenylsulfonyl)-trans-4-(2-oxo-1-pyrrolidinyl)-2H -benzo[b]pyran-3-ol | CC1([C@H]([C@@H](C2=C(O1)C=CC(=C2)S(=O)(=O)C2=CC=C(C=C2)C)N2C(CCC2)=O)O)C | C22H25NO5S
